### PR TITLE
chore(*): deprecate `Option.elim'`

### PR DESCRIPTION
**Pull request by urkud**
Use `Option.elim` instead.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Topology/LocallyFinite.lean [hunk 1]
```diff
@@ -201,6 +201,12 @@ theorem locallyFinite_option {f : Option ι → Set X} :
   simp only [locallyFinite_of_finite, and_true]
   rfl
 
+theorem LocallyFinite.option_elim (hf : LocallyFinite f) (s : Set X) :
```
Comment (urkud) [inline Mathlib/Topology/LocallyFinite.lean:204]:
```suggestion
theorem LocallyFinite.optionElim (hf : LocallyFinite f) (s : Set X) :
```

File: Mathlib/Topology/LocallyFinite.lean [hunk 2]
```diff
@@ -201,6 +201,12 @@ theorem locallyFinite_option {f : Option ι → Set X} :
...
+    LocallyFinite (Option.elim · s f) :=
+  locallyFinite_option.2 hf
+
+set_option linter.deprecated false in
+@[deprecated LocallyFinite.option_elim (since := "2024-08-02")]
 theorem LocallyFinite.option_elim' (hf : LocallyFinite f) (s : Set X) :
     LocallyFinite (Option.elim' s f) :=
   locallyFinite_option.2 hf
```
Comment (urkud) [inline Mathlib/Topology/LocallyFinite.lean:212]:
```suggestion
  hf.optionElim s
```

File: Mathlib/Topology/LocallyFinite.lean [hunk 3]
```diff
@@ -201,9 +201,15 @@ theorem locallyFinite_option {f : Option ι → Set X} :
   simp only [locallyFinite_of_finite, and_true]
   rfl
 
+theorem LocallyFinite.optionElim (hf : LocallyFinite f) (s : Set X) :
+    LocallyFinite (Option.elim · s f) :=
+  locallyFinite_option.2 hf
+
+set_option linter.deprecated false in
+@[deprecated LocallyFinite.option_elim (since := "2024-08-02")]
```
Comment (urkud) [inline Mathlib/Topology/LocallyFinite.lean:209]:
```suggestion
@[deprecated LocallyFinite.optionElim (since := "2024-08-02")]
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Review by YaelDillies — COMMENTED** [review]
`Option.elim'` is the correct one here. We should be replacing `Option.elim` instead

**Comment by urkud** [comment]
@YaelDillies Do you want to open a Lean core RFC about that?

**Comment by urkud** [comment]
Some data:

- `X.elim` with `x : X` as the first argument: `Nonempty.elim` (core), `Or.elim` (core), `Not.elim` (core), `Ne.elim` (core), `Exists.elim` (core), `Option.elim` (core), `Or.elim3` (Mathlib), 
- `X.elim` with `x : X` as the last argument: `And.elim` (core), `Iff.elim` (core), `Sum.elim` (Batteries)

**Comment by YaelDillies** [comment]
> @YaelDillies Do you want to open a Lean core RFC about that?

I don't really have time to gather all the relevant discussions right now, but if you don't do it before 10 days I can do it

**Comment by urkud** [comment]
I prefer to wait for you to do it.

**Comment by grunweg** [comment]
Let me label this awaiting-author: as I understand it, this is waiting on gathering the data to decide which name is preferred.

**Comment by urkud** [comment]
The question is about the order of arguments, not the name.

**Comment by YaelDillies** [comment]
I have now opened lean#5096

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
